US08471005B2
3-{4-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
Prepared by following a procedure analagous to Example 1220c by using 3-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester and Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester. 1H-NMR (DMSO) δ 9.4 (s, 1H), 8.9 (s, 1H), 7.8 (d, J=7.5 Hz, 1H), 7.6 (d, J=8.5 Hz, 2H), 7.45 (t, 1H), 7.2 (d, J=8.5 Hz, 1H), 7.1 (m, 3H), 6.9 (dd, J1=J2=4.6 Hz, 2H), 3.8 (s, 3H), 3.6 (m, 1H), 3.4 (m, 1H), 3.2 (m, 2H), 3.2 (t, 1H), 2.1 (m, 1H), 1.9 (m, 1H), 1.4 (s, 9H).

reactant | 3-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC=C(C=C1)N | C15H22N2O2
reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
product | 3-{4-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C28H31N5O3
